US09034880B2
A mixture of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetic acid (125 mg, 0.45 mmol) and oxalyl chloride (2 ml) in dichloromethane (6.0 ml) was stirred at 25 deg C. for 3 h. After completion of the reaction (monitored by TLC), the reaction mixture was concentrated to dryness. To the resulting crude dichloromethane (6.0 ml) and DMAP (64 mg, 0.52 mmol) was added followed by addition of 2-methylpiperidine (43 mg, 0.43 mmol). The resulting mixture was stirred at 25 deg C. for 14 h. After completion of the reaction (monitored by LCMS), solvent was removed in vacuo and purified by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL) to obtain 30 mg of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(2-methylpiperidin-1-yl)ethanone as trifluoroacetic acid salt.

reactant | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetic acid | 0.45 mmol, 125 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)O)CCN(C3)C | C14H15ClN2O2
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methylpiperidine | 0.43 mmol, 43 mg | CC1NCCCC1 | C6H13N
solvent | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.52 mmol, 64 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
product | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(2-methylpiperidin-1-yl)ethanone | 30 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1C(CCCC1)C)CCN(C3)C | C20H26ClN3O
